US04241052
3.0 g of D-ribose, 2.2 g of cyclopropylmethylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 31-(1). 4.2 g of 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(D-ribofuranosyl)urea are thereby obtained as colorless caramel.

reactant | D-ribose | 3.0 g | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | cyclopropylmethylamine | 2.2 g | C1(CC1)CN | C4H9N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(D-ribofuranosyl)urea | 4.2 g | ClCCNC(=O)N(C1[C@H](O)[C@H](O)[C@H](O1)CO)CC1CC1 | C12H21ClN2O5
